US06008212
3-(2-Acetoxy-ethyl)-4-bromo-8-nitro-naphthalene-1-sulfonyl chloride
An ice-cold, stirred solution of 3-(2-acetoxy-ethyl)-4-bromonaphthalene-1-sulfonyl chloride (17.66 g, 45.1 mmol) in trifluoroacetic acid (150 mL) was treated with 96% sulfuric acid (12.5 mL, 225 mmol) and with 90% nitric acid (2.65 mL, 56.4 mmol) added dropwise over 3 minutes. The reaction mixture was removed from the ice bath, stirred at room temperature for 15 minutes, re-cooled in an ice bath, and treated with water (850 mL) added dropwise. The resulting mixture was filtered through a celite pad to collect the solid which was washed with water (100 mL) and dissolved in methylene chloride (350 mL). The methylene chloride solution was washed with water (500 mL) containing brine (100 mL), dried over magnesium sulfate, and evaporated under vacuum to an oil (21.23 g). This material was shown to be a 42:58 mixture of the 5-NO2 to 8-NO2 products by 1H NMR). The crude product was mixed with ethyl acetate (20 mL) and sonicated to provide a crystalline precipitate. This material was collected, washed with ethyl acetate, and dried under vacuum to afford the title compound (8.11 g, 41% yield) as an off-white solid. The mother liquors yielded an additional 1.47 g of the title compound following flash chromatography on silica gel (eluting with 30-35% ethyl acetate in hexane) and crystallization from diethyl ether.

reactant | 3-(2-acetoxy-ethyl)-4-bromonaphthalene-1-sulfonyl chloride | 45.1 mmol, 17.66 g | C(C)(=O)OCCC=1C=C(C2=CC=CC=C2C1Br)S(=O)(=O)Cl | C14H12BrClO4S
reactant | sulfuric acid | 225 mmol, 12.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 56.4 mmol, 2.65 mL | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | 150 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-Acetoxy-ethyl)-4-bromo-8-nitro-naphthalene-1-sulfonyl chloride | 8.11 g, 41% yield | C(C)(=O)OCCC=1C=C(C2=C(C=CC=C2C1Br)[N+](=O)[O-])S(=O)(=O)Cl | C14H11BrClNO6S
